US08383820B2
3-Benzyloxy-N-(5-hydroxy-adamantan-2-yl)-benzamide
Prepared from 3-(benzyloxy)benzoic acid and 4-amino-1-hydroxyadamantane to give the title compound as a mixture of two isomers. 1H NMR (300 MHz, CDCl3): δ 7.69-7.74 (m, 1 H), 7.29-7.48 (m, 7 H), 7.20-7.24 (m, 0.5 H), 7.09-7.13 (m, 0.5 H), 6.27 (d, 1 H), 5.12 (s, 2 H), 4.18-4.23 (m, 1 H), 2.16-2.27 (m, 3 H), 1.91-1.98 (m, 2 H), 1.71-1.84 (m, 6 H), 1.54-1.61 (m, 2 H).

reactant | 3-(benzyloxy)benzoic acid | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=CC1 | C14H12O3
reactant | 4-amino-1-hydroxyadamantane | NC1C2CC3(CC(CC1C3)C2)O | C10H17NO
product | 3-Benzyloxy-N-(5-hydroxy-adamantan-2-yl)-benzamide | C(C1=CC=CC=C1)OC=1C=C(C(=O)NC2C3CC4CC(CC2C4)(C3)O)C=CC1 | C24H27NO3
